US07435823B2
6-(6,7-Dimethoxyquinolin-4-yloxy)-1-naphthoic acid (80 mg, 0.213 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (61 mg, 0.32 mmol) and HOAT (29 mg, 0.213 mmol) were added to a reaction tube, then dissolved in DMF (0.6 mL). A solution of N,N-dimethylethylenediamine (23 mg, 0.256 mmol) in DMF (0.6 mL) was added to the reaction, followed by Hunig's base (75 mg, 0.581 mmol). The mixture became yellow and clear within 15 min and was stirred at RT for 16 h. The mixture was concentrated under vacuum. The remaining yellow oil was purified by silica gel chromatography (2% to 3% 7N NH3 in MeOH in CH2Cl2) to afford 6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(2-(dimethylamino)ethyl)-1-naphthalenecarboxamide as a white solid. MS (ESI, pos. ion) m/z: 446.1 (M+1). Calc'd for C226H27N3O4-445.52.

reactant | 6-(6,7-Dimethoxyquinolin-4-yloxy)-1-naphthoic acid | 0.213 mmol, 80 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C22H17NO5
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.32 mmol, 61 mg | Cl.CN(CCCN=C=NCC)C
reactant | HOAT | 0.213 mmol, 29 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N,N-dimethylethylenediamine | 0.256 mmol, 23 mg | CN(CCN)C | C4H12N2
reactant | Hunig's base | 0.581 mmol, 75 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.6 mL | CN(C)C=O | C3H7NO
product | 6-((6,7-bis(methoxy)-4-quinolinyl)oxy)-N-(2-(dimethylamino)ethyl)-1-naphthalenecarboxamide | COC=1C=C2C(=CC=NC2=CC1OC)OC=1C=C2C=CC=C(C2=CC1)C(=O)NCCN(C)C | C26H27N3O4
